Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aleve / codeine / Levaquin / adhesive tape
 
Attending: ___.
 
Chief Complaint:
biliary ductal dilatation
 
Major Surgical or Invasive Procedure:
A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome.
The sphincterotome was exchanged for a CRE balloon catheter. 
Balloon sweeps were performed and yielded scant sludge. 
Cytology samples were obtained for histology using a brush at 
the ampulla
Cold forceps biopsies were performed for histology at the 
ampulla  
 

Impression: •Normal major papilla
•Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique. Contrast medium was 
injected resulting in complete opacification. The procedure was 
not difficult. 
• The common bile duct, common hepatic duct, right and left 
hepatic ducts, and biliary radicles were filled with contrast 
and well visualized. There was evidence of common hepatic duct 
and CBD dilation to 1.4 cm down to the ampulla. 
•A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome.
•The sphincterotome was exchanged for a CRE balloon catheter. 
•Balloon sweeps were performed and yielded scant sludge. 
•Cytology samples were obtained for histology using a brush at 
the ampulla
•Cold forceps biopsies were performed for histology at the 
ampulla  
 

Recommendations: •Admit to hospital for monitoring
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
•No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
•Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results
 
EUS:   EUS was performed using a linear echoendoscope at ___ MHz 
frequency:  The head and uncinate pancreas were imaged from the 
duodenal bulb and the second / third duodenum.  The body and 
tail [partially] were imaged from the gastric body and fundus.   


•Pancreas parenchyma: The parenchyma in the uncinate, head, body 
and tail of the pancreas was hyperchoic, consistent with fatty 
infiltration.

•Pancreatic duct: The pancreatic duct measured 5.1 mm in maximum 
diameter at the ampulla and head, but was of normal caliber in 
the body and tail.  The duct was normal in echotexture and 
contour.  No intra-ductal stones were noted.  No dilated 
side-branches were noted.

___ vasculature:  Portal vein, splenic vein and 
porto-splenic confluence were imaged and appeared normal.  The 
imaged superior mesenteric vein and artery were imaged and 
appeared normal.

•Common bile duct: The bile duct was imaged at the level of the 
porta-hepatis, head of the pancreas and ampulla.  The CBD was 
dilated to the ampulla with a maximum diameter of 9.9 mm.  The 
bile duct was otherwise normal in appearance.   No intrinsic 
stones or sludge were noted.  

•The ampulla appeared prominent sonographically.
 

Recommendations: •Proceed to ERCP (see ERCP report for further 
recommendations) given dilation of both the PD and CBD and in 
the context of a prominent ampulla 
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
 

 
History of Present Illness:
___ y/o F w/ hx hep C cirrhosis c/b portal HTN and Stable 1.1 cm 
OPTN ___ lesion
in segment ___ of the liver. 1.5 cm area of arterial 
hyperenhancement in segment 2 as seen on most recent MRI, 
without definite washout, found on CT to have Intra and 
extrahepatic biliary ductal dilation with the CBD measuring up 
to 1.5 cm who underwent EUS and then ERCP for evaluation of this 
biliary dilatation.  ERCP showed  evidence of common hepatic 
duct and CBD dilation to 1.4 cm down to the ampulla and 
sphincterotomy, balloon sweep and biopsies of ampulla, and 
biliary cytology brushings were performed.  The patient 
recovered from the procedure feeling well without any focal 
complaints.  He denied any jaundice before the procedure.  He 
has not had fevers or chills or any changes in his breathing 
before this admission.  

 
Past Medical History:
Past Medical History:  Includes chronic active hepatitis C
infection, genotype 1A with FibroScan score of 35.3 kPa.  He
received a combination therapy with Harvoni and ribavirin.  His
week 4 hep C viral load was undetectable and his one month
post-hep C treatment viral load was also undetectable.  He has
had sustained virologic response since that point.  He required
some dose adjustments of ribavirin due to symptomatic anemia and
nausea..

Stable 1.1 cm OPTN ___ lesion
in segment ___ of the liver. 1.5 cm area of arterial 
hyperenhancement in segment 2 as seen on most recent MRI 
followed by liver tumor group

He has also had:
1.  History of core positive hepatitis B infection with negative
surface antigen.
2.  History of chest pain as above.
3.  History of pericarditis as above.
4.  History of hemochromatosis for which he receives phlebotomy.
5.  History of coronary artery calcifications.
6.  Chronic obstructive pulmonary disease.
7.  Cirrhosis as above.
8.  Portal hypertension.
9.  Splenomegaly.
10.  History of varices.

Surgical History:  He had a spinal fusion of L4-L5, history of
laparoscopic cholecystectomy and a chest surgery for a
self-inflicted gunshot wound ___ years ago.

 
Social History:
copied and attributed from recent ID note and confirmed basic 
details with patient 

Social History: ___
Family History:
not pertinent to management during current admit
 
Physical Exam:
avss
calm and cooperative, inititally sleeping and then easily woken
not confused not jaundice
clear breath sounds anteriorly
regular pulse
soft abdomen, obese, slightly distended with slight focal 
tenderness in epigastric/RUQ region but no guarding or rebound 
no peripheral edema
no visible rash to face or extremities.  
 
Pertinent Results:
___ 03:45PM BLOOD WBC-6.6 RBC-4.72 Hgb-15.9 Hct-44.5 MCV-94 
MCH-33.7* MCHC-35.7 RDW-12.9 RDWSD-44.6 Plt ___
___ 03:45PM BLOOD UreaN-17 Creat-0.8 Na-138 K-4.1 Cl-102 
HCO3-23 AnGap-17
___ 03:45PM BLOOD ALT-33 AST-32 AlkPhos-85 Amylase-58 
TotBili-1.2
___ 03:45PM BLOOD ___ PTT-34.1 ___
___ 03:45PM BLOOD Lipase-___ y/o F w/ hx hep C cirrhosis c/b portal HTN and Stable 1.1 cm 
OPTN ___ lesion
in segment ___ of the liver. 1.5 cm area of arterial 
hyperenhancement in segment 2 as seen on most recent MRI, 
without definite washout, found on CT to have Intra and 
extrahepatic biliary ductal dilation with the CBD measuring up 
to 1.5 cm who underwent EUS and then ERCP for evaluation of this 
biliary dilatation.  ERCP showed  evidence of common hepatic 
duct and CBD dilation to 1.4 cm down to the ampulla and 
sphincterotomy, balloon sweep and biopsies of ampulla, and 
biliary cytology brushings were performed.  The patient 
recovered from the procedure feeling well without any focal 
complaints.  

Biliary ductal dilatation
NPO, clears in AM and then adv diet as tolerated
LR at reduced rate given history of cirrhosis and chronic use of 
diuretics
F/u cytology/biopsy

Cirrhosis
continue lactulose, rifaxamin, Lasix, aldactone
currently appears compensated

COPD
stable
hold off formulary inhalers

full code
low dvt risk, no heparin sc required

Expect discharge ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 30 mL PO DAILY 
2. umeclidinium 62.5 mcg/actuation inhalation DAILY 
3. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
4. Furosemide 60 mg PO DAILY 
5. Spironolactone 25 mg PO DAILY 
6. Methadone 50 mg PO DAILY 
7. budesonide-formoterol 160-4.5 mcg/actuation inhalation DAILY 
8. Rifaximin 550 mg PO BID 
9. alfuzosin 10 mg oral DAILY 
10. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN sob 
11. Citalopram 40 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Magnesium Oxide 280 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- dilation of the bile ducts with diagnostic endoscopic 
ultrasound and ERCP (endoscopic retrocholangiopancreatogram) and 
biopsies taken

 
Discharge Condition:
ambulatory
alert and oriented x 3

 
Discharge Instructions:
You were admitted to undergo an ERCP procedure to evaluate the 
cause of dilation of some of your bile ducts both inside and 
outside the liver.  You had an endoscopic procedure to visualize 
the area with an ultrasound and then ERCP that opened one of the 
sphincters in the bile ducts and to biopsy this area.  You 
tolerated the procedure well and do not need to have any 
antibiotics after the procedure. You did not have any pain today 
and you have been able to tolerate a regular diet so you are 
ready to go home.  Please call Dr. ___ ___ in 7 days for the pathology results.

You have cut down smoking and we encourage you to continue 
cutting down and trying to stop, particularly if you are going 
to be eligible for a liver transplant in the future if that is 
necessary.  Ask your PCP and the liver team for help with trying 
to quit.
 
Followup Instructions:
___